US04101549
5-Allyl-5-(1-carboxy-isopropyl)barbituric acid
A mixture of 50 g. of 5-allyl-5-(1-ethoxycarbonyl-isopropyl)barbituric acid and 400 ml. of 1N hydrochloric acid was heated under reflux for 4 hours. The solution was allowed to stand at room temperature overnight and the precipitate was collected to yield 42.5 g. (94%) of the acid, m.p. 202°-203°.

reactant | 5-allyl-5-(1-ethoxycarbonyl-isopropyl)barbituric acid | C(C=C)C1(C(NC(NC1=O)=O)=O)C(C)(C)C(=O)OCC | C13H18N2O5
reactant | hydrochloric acid | 1N | Cl | ClH
product | 5-Allyl-5-(1-carboxy-isopropyl)barbituric acid | C(C=C)C1(C(NC(NC1=O)=O)=O)C(C)(C)C(=O)O | C11H14N2O5
